US06350762B1
1) Synthesis of ethyl 2-acetoxymethyl-4-(3-chlorophenyl)-6-methyl-5-(3-phenyl-2-propene-1-ylcarbamoyl)-1,4-dihydropyridine-3-carboxylate
652 mg (3.00 mmol) of 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide, 0.510 ml (3.00 mmol) of 3-chlorobenzaldehyde and 0.045 ml (0.30 mmol) of piperidine were heated under reflux in 37.5 ml of benzene overnight while water was removed. The reaction solution was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue thus obtained, 564 mg (3.0 mmol) of ethyl 4-acetoxy-3-oxobutyrate and 278 mg (3.6 mmol) of ammonium acetate were heated at 80° C. under stirring in 15 ml of 2-propanol for four nights. The reaction mixture was then heated at 120° C. under stirring under atmospheric pressure for 4 hours while 2-propanol was evaporated. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/2) to obtain the title compound.

reactant | 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide | 3.00 mmol, 652 mg | O=C(CC(=O)NCC=CC1=CC=CC=C1)C | C13H15NO2
reactant | 3-chlorobenzaldehyde | 3.00 mmol, 0.510 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.30 mmol, 0.045 ml | N1CCCCC1 | C5H11N
reactant | ethyl 4-acetoxy-3-oxobutyrate | 3.0 mmol, 564 mg | C(C)(=O)OCC(CC(=O)OCC)=O | C8H12O5
reactant | ammonium acetate | 3.6 mmol, 278 mg | C(C)(=O)[O-].[NH4+]
solvent | benzene | 37.5 ml | C1=CC=CC=C1 | C6H6
solvent | 2-propanol | 15 ml | CC(C)O | C3H8O
solvent | water | O | H2O
product | ethyl 2-acetoxymethyl-4-(3-chlorophenyl)-6-methyl-5-(3-phenyl-2-propene-1-ylcarbamoyl)-1,4-dihydropyridine-3-carboxylate | C(C)(=O)OCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)Cl)C(NCC=CC1=CC=CC=C1)=O)C | C28H29ClN2O5
